US04925985
To a stirred solution of 2,4-dimethyl-5-oxoheptanenitrile (IIb, 239 g, 1.56 moles) in isopropanol (2.5L) at 5° C. under a nitrogen atmosphere, was added sodium borohydride (60 g, 1.59 moles) over a 15 minute period. The mixture was stirred for 40 hours at room temperature, after which GC analysis indicated complete reaction. The reaction mixture was cooled to -5° C. and carefully quenched with water (1L) followed by saturated aqueous ammonium chloride (200 ml). After the gas evolution had subsided, the isopropanol was removed under reduced pressure (30 mm). The residue was extracted with diethyl ether (1×750 ml, 2×350 ml) and the combined organic layers washed with water (2×200 ml) and saturated aqueous sodium chloride (200 ml). After drying (MgSO4), the solvent was removed at reduced pressure (30 mm) and the crude product distilled at 75-80° C. and 0.20-0.10 mm to give a 88% yield of 2,4-dimethyl-5-hydroxyheptanenitrile (212 g, 1.37 moles).

reactant | 2,4-dimethyl-5-oxoheptanenitrile | 1.56 moles, 239 g | CC(C#N)CC(C(CC)=O)C | C9H15NO
reactant | sodium borohydride | 1.59 moles, 60 g | [BH4-].[Na+]
solvent | isopropanol | 2.5L | C(C)(C)O | C3H8O
product | 2,4-dimethyl-5-hydroxyheptanenitrile | 1.37 moles, 212 g, 88% yield | CC(C#N)CC(C(CC)O)C | C9H17NO
